US06235742B1
N-{4-[(1-methyl-7-oxo-3-propyl-6,7-dihydro-1H-pyrazolo[4,3-d]pyrimidin-5-yl)methyl]phenyl}acetamide
Triethylamine (160 μl, 0.0011 mol), dimethylaminopyridine (10 mg), and acetic anhydride (50 μl, 0.0005 mol) were added to a solution of 5-(4-aminobenzyl)-1-methyl-3-propyl-6,7-dihydro-1H-pyrazolo[4,3-d]pyrimidin-7-one (110 mg, 0.00037 mol) in dichloromethane (9 ml). The resulting mixture was stirred overnight at room temperature under a nitrogen atmosphere. The mixture was then partitioned between 2M aqueous hydrochloric acid solution (15 ml) and dichloromethane (15 ml) and the aqueous phase extracted with dichloromethane/methanol (30 ml). The combined organic extracts were dried (MgSO4), filtered and concentrated under reduced pressure to give, after crystallisation from ethyl acetate/methanol, the title compound as an off white solid (105 mg), m.p.272-275° C.

reactant | Triethylamine | 0.0011 mol, 160 μl | C(C)N(CC)CC | C6H15N
reactant | dimethylaminopyridine | 10 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | acetic anhydride | 0.0005 mol, 50 μl | C(C)(=O)OC(C)=O | C4H6O3
reactant | 5-(4-aminobenzyl)-1-methyl-3-propyl-6,7-dihydro-1H-pyrazolo[4,3-d]pyrimidin-7-one | 0.00037 mol, 110 mg | NC1=CC=C(CC=2NC(C3=C(N2)C(=NN3C)CCC)=O)C=C1 | C16H19N5O
solvent | dichloromethane | 9 ml | ClCCl | CH2Cl2
product | N-{4-[(1-methyl-7-oxo-3-propyl-6,7-dihydro-1H-pyrazolo[4,3-d]pyrimidin-5-yl)methyl]phenyl}acetamide | CN1N=C(C=2N=C(NC(C21)=O)CC2=CC=C(C=C2)NC(C)=O)CCC | C18H21N5O2
